US08431596B2
{5-[3-(5-Phenyl-[1,3,4]oxadiazol-2-yl)-phenyl]-[1,2,4]triazolo[1,5-a]pyridin-2-yl}-[4-(2-pyrrolidin-1-yl-ethoxy)-phenyl]-amine (XX-309)
Phosphorus oxychloride (5 ml) was added dropwise to 3-{2-[4-(2-pyrrolidin-1-yl-ethoxy)-phenylamino]-[1,2,4]triazolo[1,5-a]pyridin-5-yl}-benzoic acid (50 mg, 0.113 mmol) and benzhydrazide (15 mg, 0.113 mmol). The solution was heated to reflux overnight. Once cooled the reaction mixture was added gradually to ice/water. The solution was basified with saturated aqueous sodium hydrogencarbonate and subsequently extracted twice with dichloromethane. The organics were combined, washed several times with brine, dried over anhydrous magnesium sulfate, filtered and concentrated in vacuo. The product was purified by preparatory HPLC. LCMS RT: 2.80 min, MI: 544, Method: 2.

reactant | Phosphorus oxychloride | 5 ml | P(=O)(Cl)(Cl)Cl | Cl3OP
reactant | 3-{2-[4-(2-pyrrolidin-1-yl-ethoxy)-phenylamino]-[1,2,4]triazolo[1,5-a]pyridin-5-yl}-benzoic acid | 0.113 mmol, 50 mg | N1(CCCC1)CCOC1=CC=C(C=C1)NC1=NN2C(C=CC=C2C=2C=C(C(=O)O)C=CC2)=N1 | C25H25N5O3
reactant | benzhydrazide | 0.113 mmol, 15 mg | C(C1=CC=CC=C1)(=O)NN | C7H8N2O
reactant | sodium hydrogencarbonate | C(O)([O-])=O.[Na+]
product | {5-[3-(5-Phenyl-[1,3,4]oxadiazol-2-yl)-phenyl]-[1,2,4]triazolo[1,5-a]pyridin-2-yl}-[4-(2-pyrrolidin-1-yl-ethoxy)-phenyl]-amine | C1(=CC=CC=C1)C1=NN=C(O1)C=1C=C(C=CC1)C1=CC=CC=2N1N=C(N2)NC2=CC=C(C=C2)OCCN2CCCC2 | C32H29N7O2
